US04938790
Preparation of Methyl 12-Methyl-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate.
1,1-Bis(2-hydroxyphenyl)ethane was treated with dichloroacetic acid, potassium carbonate, and potassium iodide in isopropyl alcohol as in Example 3 and the product obtained was esterified with methanol as in Example 4 to obtain 1.71 g of the title compound as a mixture of cis and trans isomers. A portion of this was recrystallized from ether to obtain a pure sample of the cis isomer of the title compound as a white solid melting at 146-147° C. The geometry was determined by proton NMR spectroscopy.

reactant | 1,1-Bis(2-hydroxyphenyl)ethane | OC1=C(C=CC=C1)C(C)C1=C(C=CC=C1)O | C14H14O2
reactant | dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
product | Methyl 12-Methyl-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate | 1.71 g | CC1C2=C(OC(OC3=C1C=CC=C3)C(=O)OC)C=CC=C2 | C17H16O4
